US05856503
A mixture of 0.53 ml of methyl hydrazine and 0.17 g of potassium carbonate is stirred in 5 ml of DMA at room temperature. After the addition of 0.44 g of (E)-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-2,5-difluoro-phenyl]-(4-bromo-phenyl)-methanone in 5 ml of DMA the mixture is boiled at 120° C. After filtration the filtrate is concentrated at 80° C./0.3 Torr, taken up in methylene chloride, filtered over sodium sulphate and concentrated. The residue consisting of the title compound is dissolved in ether/hexane, treated with 0.11 g of fumaric acid and stirred. After filtration and drying there is obtained 0.41 g of (E)-allyl-[4-[3-(4-bromo-phenyl)-5-fluoro-1-methyl-1H-indazol-6-yloxy]-but-2-enyl]-methyl-amine.fumarate, m.p. 135°-137° C.

reactant | methyl hydrazine | 0.53 ml | CNN | CH6N2
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-2,5-difluoro-phenyl]-(4-bromo-phenyl)-methanone | 0.44 g | C(C=C)N(C/C=C/COC1=CC(=C(C=C1F)C(=O)C1=CC=C(C=C1)Br)F)C | C21H20BrF2NO2
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | (E)-allyl-[4-[3-(4-bromo-phenyl)-5-fluoro-1-methyl-1H-indazol-6-yloxy]-but-2-enyl]-methyl-amine | 0.41 g | C(C=C)N(C)C\C=C\COC1=C(C=C2C(=NN(C2=C1)C)C1=CC=C(C=C1)Br)F | C22H23BrFN3O
